US05830619
Synthesis of neopentyl 2,6-dinitromandelate
2,6-dinitromandelic acid (4.00 g, 16.5 mmol) was added to an excess of neopentyl alcohol (20.0 g, 227 mmol) melted in a round bottom flask. To this solution was added 5 drops of H2SO4 and it was heated to reflux for 3 hours. The excess neopentyl alcohol was removed under reduced pressure, and the residue was purified by column chromatography over silica gel (60-200 mesh) using methylene chloride/hexane (1:1) as the eluant. The yield after two recrystallizations from CHCl3 /petroleum ether was 3.8 g (74%).

reactant | 2,6-dinitromandelic acid | 16.5 mmol, 4.00 g | [N+](=O)([O-])C1=C(C(C(=O)O)O)C(=CC=C1)[N+](=O)[O-] | C8H6N2O7
reactant | neopentyl alcohol | 227 mmol, 20.0 g | C(C(C)(C)C)O | C5H12O
catalyst | H2SO4 | 5 drops | OS(=O)(=O)O | H2O4S
product | neopentyl 2,6-dinitromandelate | [N+](=O)([O-])C1=C(C(C(=O)OCC(C)(C)C)O)C(=CC=C1)[N+](=O)[O-] | C13H16N2O7
